US07157464B2
(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (1.5 g, 6.18 mmol) was taken in dry DCM (20 mL) and cooled to 0° C. To this cold mixture was added N-boc piperazine (1.15 g, 6.18 mmol) followed by addition of T3P (8 g, 12.4 mmol, 50% solution in EtOAc). The reaction was left overnight at rt. The mixture was diluted with CH2Cl2, washed with NaHCO3 soln, brine, dried (Na2SO4) and concentrated to afford the crude product that was washed thoroughly with ether-pet ether to afford 4-[2-(4-Chloro-5 methyl-3-trifluoromethyl-pyrazol-1yl)-acetyl]-piperazine-1carboxylic acid tert-butyl ester (1.2 g, 2.9 mmol). This was dissolved in methanol (25 mL) cooled to 0° C. and HCl saturated ether (3 mL) was added to it. The mixture was stirred at room temperature for 4 h and concentrated. Crystallization from MeOH/Petroleum ether yielded product.

reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 6.18 mmol, 1.5 g | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | N-boc piperazine | 6.18 mmol, 1.15 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | T3P | 12.4 mmol, 8 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Chloro-5 methyl-3-trifluoromethyl-pyrazol-1yl)-acetyl]-piperazine-1carboxylic acid tert-butyl ester | 2.9 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O | C16H22ClF3N4O3
